US08080546B2
A solution of ethyl 5-acetamido-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylate (3.56 g, 12.2 mmol) in 8 mL of DMF and 8 mL of THF at 0° C. was treated with NaH (60% wt. in mineral oil, 850 mg, 21.2 mmol). After 10 min of stirring, MeI (1.4 mL, 21.9 mmol) was added, and the reaction mixture was stirred at 0° C. for 15 min followed by RT for 1 h. the mixture was treated with saturated ammonium chloride and extracted with EtOAc twice. The combined EtOAc layers were washed with brine, dried and concentrated. Purification of the resulting crude material on an ISCO (80 g column, 30-50% EtOAc in Hexanes) provided ethyl 1-(3-fluorophenyl)-5-(N-methylacetamido)-1H-pyrazole-4-carboxylate as a colorless amorphous solid. MS (ESI, pos.ion) m/z: 306.1 (M+1).

reactant | ethyl 5-acetamido-1-(3-fluorophenyl)-1H-pyrazole-4-carboxylate | 12.2 mmol, 3.56 g | C(C)(=O)NC1=C(C=NN1C1=CC(=CC=C1)F)C(=O)OCC | C14H14FN3O3
reactant | NaH | 21.2 mmol, 850 mg | [H-].[Na+]
reactant | MeI | 21.9 mmol, 1.4 mL | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | ethyl 1-(3-fluorophenyl)-5-(N-methylacetamido)-1H-pyrazole-4-carboxylate | FC=1C=C(C=CC1)N1N=CC(=C1N(C(C)=O)C)C(=O)OCC | C15H16FN3O3
